US05597826
7-Trifluoromethylsulfonyloxy-1-(4-methyl-1-piperazinyl)-naphthalene
7-Hydroxy-1-(4-methyl-1-piperazinyl)-naphthalene (4.1 g, 16.9 mmol) and triethylamine (12.8 mL, 91.8 mmol) were dissolved in methylene chloride (150 mL) and cooled to -78° C. Triflic anhydride (3.04 mL, 18.1 mmol) was added via syringe and the reaction was warmed to room temperature and stirred overnight. The reaction was again chilled to -78° C. and additional triflic anhydride (1 mL) and triethylamine (2 mL) were added but after 2 hours stirring at ambient temperature, no further reaction occurred. Saturated ammonium chloride was added and the mixture was concentrated. The residue was partitioned between ethyl acetate and water. The organic layer was washed with water and brine, dried over magnesium sulfate and concentrated to a brown oil which was purified by silica gel flash chromatography (2×6 inches). Elution with 75% ethyl acetate/hexane gave 4.49 g (71%) of the title product as a light brown solid: mp 70°-71 ° C. Analysis calculated for C16H17F3N2O3S: C, 51.33; H, 4.58; N, 7.48. Found: C, 51.35; H, 4.46; N, 7.49.

reactant | 7-Hydroxy-1-(4-methyl-1-piperazinyl)-naphthalene | 16.9 mmol, 4.1 g | OC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C15H18N2O
reactant | triethylamine | 91.8 mmol, 12.8 mL | C(C)N(CC)CC | C6H15N
reactant | Triflic anhydride | 18.1 mmol, 3.04 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triflic anhydride | 1 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 7-Trifluoromethylsulfonyloxy-1-(4-methyl-1-piperazinyl)-naphthalene | 4.49 g, 71% | FC(S(=O)(=O)OC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C)(F)F | C16H17F3N2O3S
